US08242175B2
A mixture of (E)-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylamino)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid trifluoroacetate (126 mg, 0.25 mmol), HOBT (40 mg, 0.30 mmol), EDC (58 mg, 0.30 mmol), TEA (0.10 ml, 0.75 mmol) and NH2OTHP (30 mg, 0.25 mmol) in THF (5 ml) and DMF (1 ml), was stirred at room temperature overnight and then partitioned between water and AcOEt. The organic extract was dried over Na2SO4 and evaporated in vacuo. The crude product was triturated in CH3CN/MeOH 9:1 and filtered to give a brown powder that was dissolved in DCM and treated with HCl/Et2O for 2 h. The precipitate was filtered off to give 65 mg of (E)-N-hydroxy-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylamino)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide as its hydrochloride salt.

reactant | (E)-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylamino)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid trifluoroacetate | 0.25 mmol, 126 mg | FC(C(=O)O)(F)F.CN1CCC(CC1)NC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O
reactant | HOBT | 0.30 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.30 mmol, 58 mg
reactant | NH2OTHP | 0.25 mmol, 30 mg | NOC1OCCCC1 | C5H11NO2
reactant | HCl Et2O | Cl.CCOCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-N-hydroxy-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylamino)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide | 65 mg | ONC(\C=C\C1=CC=C(C=C1)\C=C\C(=O)C1=CC=C(C=C1)NC1CCN(CC1)C)=O | C24H27N3O3
